US04067981
A suspension of 20.2 g (0.1 mole) of 3,7-dichlorobenzo-1,2,4-triazine and 12.2 g (0.25 mole) of sodium cyanide in 200 ml of ethanol was boiled under reflux for 2 hours. The salts were filtered off and the filtrate was evaporated in vacuo. The residue was stirred with water and cooled in ice for some time. The crystallized mass was filtered off and recrystallized from wash benzine. 17.6 g, that is to say 84% of theory, of 3-ethoxy-7-chloro-benzo-1,2,4-triazine with a melting point of 90°-92° C were obtained.

reactant | 3,7-dichlorobenzo-1,2,4-triazine | 0.1 mole, 20.2 g | ClC=1N=NC2=C(N1)C=CC(=C2)Cl | C7H3Cl2N3
reactant | sodium cyanide | 0.25 mole, 12.2 g | [C-]#N.[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-ethoxy-7-chloro-benzo-1,2,4-triazine | C(C)OC=1N=NC2=C(N1)C=CC(=C2)Cl | C9H8ClN3O
